### PR TITLE
[Merged by Bors] - chore: remove redundant `have`:s in `Computability/`, `Combinatorics/`, `Condensed/`, `Data/Nat/` and `Data/PNat/`

### PR DESCRIPTION
**Pull request by euprunin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ghost** [comment]
!bench

File: Mathlib/Data/Nat/Squarefree.lean [hunk 1]
```diff
@@ -460,15 +460,6 @@ theorem squarefreeHelper_3 (n n' k k' c : ℕ) (e : k + 1 = k') (hn' : bit1 n' *
   have k0' : 0 < bit1 k := bit1_pos (Nat.zero_le _)
   have dn' : bit1 n' ∣ bit1 n := ⟨_, hn'.symm⟩
   have dk : bit1 k ∣ bit1 n := ⟨_, ((mul_comm _ _).trans hn').symm⟩
-  have : bit1 n / bit1 k = bit1 n' := by rw [← hn', Nat.mul_div_cancel _ k0']
```
Comment (JovanGerb) [inline Mathlib/Data/Nat/Squarefree.lean]: Why did you edit this commented out code? I think it already doesn't compile anymore.

Comment (euprunin) [reply Mathlib/Data/Nat/Squarefree.lean]: Oh, that’s a very good catch: I didn’t notice it was commented out! I’ll be more careful in the future.

Comment (JovanGerb) [reply Mathlib/Data/Nat/Squarefree.lean]: I am curious, what method do you use to find these clean-ups?

**Comment by ghost** [comment]
!bench

**Comment by JovanGerb** [comment]
maintainer merge
